US07199197B2
Preparation of HOHA (6-Hydroxyhexyl acrylate)
118 g (1 mol; available from Sigma-Aldrich) 1,6-hexanediol, 36 g (0.5 mol; available from Sigma-Aldrich) AA, 1.0 g p-toluenesulfonic acid hydrate (available from Sigma-Aldrich), 0.016 g phenothiazine, 0.055 g hydroquinone monomethyl ether (available from Sigma-Aldrich) and 300 ml heptane was stirred at reflux in a 3 necked 1-L round bottom flask equipped with a modified Dean-Stark trap. After 5 hr at reflux, 8.4 ml (0.47 mol) water had collected. Upon cooling, two layers formed. The top layer contained hexanediol diacrylate and heptane. The bottom layer (141.2 g) was analyzed by gas liquid chromatography (GLC) after derivatization with TFAA (trifluoroacetic anhydride available from Aldrich) as 13.9% unreacted diol, 11.0% desired monoacrylate, and a trace of diacrylate. The lower layer was dissolved in 100 ml ethyl acetate and washed three times with 100 ml of water, stripped to 55.7 g, 15% diol, 84% monoacrylate (HOHA), and 1% diacrylate. To the above prepared HOHA mixture (19 g), 100 ml ethyl acetate was added and this solution was washed three times with 150 ml water. The last wash gave an emulsion, which was frozen and thawed to give two phases. The organic phase yielded HOHA (50.1 g red liquid; 99% pure).

reactant | 1,6-hexanediol | 1 mol, 118 g | C(CCCCCO)O | C6H14O2
reactant | water | 0.47 mol, 8.4 ml | O | H2O
reactant | hexanediol diacrylate | C(C=C)(=O)OC(CCCCC)OC(C=C)=O | C12H18O4
reactant | TFAA | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | p-toluenesulfonic acid hydrate | 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
catalyst | phenothiazine | 0.016 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
catalyst | hydroquinone monomethyl ether | 0.055 g | COC1=CC=C(O)C=C1 | C7H8O2
solvent | heptane | CCCCCCC | C7H16
solvent | heptane | 300 ml | CCCCCCC | C7H16
product | HOHA | 50.1 g | C(C=C)(=O)OCCCCCCO | C9H16O3
